US04886835
The procedure is as in Example 2 for the preparation of diethyl 2-dimethylamino-5-phenylthio-2,4-hexadienedioate, starting with N-(dimethylamino-3-ethoxycarbonylpropenylidene)-N-methylmethanaminium tetrafluoroborate (10 g), a 2M ethanolic solution of sodium ethylate (17.5 cc) and ethyl (n-butyolthio)acetate (6.16 g) in ethanol (60 cc). Diethyl 2-dimethylamino-5-n-butylthio-2,4-hexadienedioate (10 g) is thereby obtained in the form of an orange-red oil, and is used in the crude state in the subsequent syntheses.

reactant | diethyl 2-dimethylamino-5-phenylthio-2,4-hexadienedioate | CN(C(C(=S)OCC)=CC=C(C(=O)OCC)C1=CC=CC=C1)C | C18H23NO3S
reactant | N-(dimethylamino-3-ethoxycarbonylpropenylidene)-N-methylmethanaminium tetrafluoroborate | 10 g | F[B-](F)(F)F.CN(C)C(=CC=[N+](C)C)C(=O)OCC
reactant | sodium ethylate | 17.5 cc | CC[O-].[Na+]
solvent | ethanol | 60 cc | C(C)O | C2H6O
product | Diethyl 2-dimethylamino-5-n-butylthio-2,4-hexadienedioate | 10 g | CN(C(C(=S)OCC)=CC=C(C(=O)OCC)CCCC)C | C16H27NO3S
